US07977344B2
6-Amino-2-(butyloxy)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-Purin-8-one, Isomer 2
2-Butoxy-8-methoxy-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-6-amine (Isomer 2, 178 mg) was suspended in methanol (2 ml) and 4N HCl in dioxan (1 ml) added. The resulting clear solution was stripped and the residue treated with water and basified with saturated aqueous sodium bicarbonate. The solid obtained was filtered, washed with water and dried to give the title compound (isomer 2), yield 72 mg (low due to mechanical losses).

reactant | 2-Butoxy-8-methoxy-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-6-amine | 178 mg | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1COCC1)OC)N | C15H23N5O3
reactant | HCl | 4N | Cl | ClH
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | dioxan | 1 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-(butyloxy)-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-Purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1COCC1)=O | C14H21N5O3
